US06677473B1
Synthesis of 3-(4-Hydroxy-3,5-diiodo-phenyl)-acrylic Acid Methyl Ester
A 50 mL round bottomed flask equipped with a Teflon coated magnetic stirring bar, a reflux condenser and a rubber septum was charged with 3,5-diiodo-4-hydroxybenzaldehyde (1 g, 2.68 mmol), methyl (triphenylphosphoranylidene) acetate (1.79 g, 5.36 mmol) and benzene (30 mL). The reaction mixture was heated to a gentle reflux for 24 h. The reaction mixture was cooled to ambient temperature and concentrated to dryness. The title compound obtained was a white solid (891 mg, 78%) after the crude material was subjected to flash chromatography (SiO2, using 20% EtOAc/Hex as the eluent).

reactant | 3,5-diiodo-4-hydroxybenzaldehyde | 2.68 mmol, 1 g | IC=1C=C(C=O)C=C(C1O)I | C7H4I2O2
reactant | methyl (triphenylphosphoranylidene) acetate | 5.36 mmol, 1.79 g | COC(=O)C=P(C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3 | C21H19O2P
solvent | benzene | 30 mL | C1=CC=CC=C1 | C6H6
product | 3-(4-Hydroxy-3,5-diiodo-phenyl)-acrylic Acid Methyl Ester | COC(C=CC1=CC(=C(C(=C1)I)O)I)=O | C10H8I2O3
